US06479486B2
(1R*,2R*,5S*,6R*)-8-Benzyl-2′,5′-dihydro-1-phenyl-6-phenylsulfonylspiro[8-azabicyclo[3.2.1]octane-2,2′-furan]
Diethylazodicarboxylate, 0.7 ml, 4.4 mmol was added dropwise to a +5° C. solution of (1R*,2R*,5S*,6R*)-8-benzyl-2-[(Z)-3-hydroxypropenyl)-1-phenyl-6-phenylsulphonyl-8-azabicyclo[3.2.1]octan-2-ol (Description 14; 1.8 g, 3.7 mmol) and triphenylphosphine (1.15 g, 4.4 mmol) in tetrahydrofuran (25 ml). After 90 minutes the mixture was diluted with ethyl acetate and washed (×2) with water (100 ml). The organic extracts were separated, dried (MgSO4), filtered and concentrated in vacuo. The residue was chromatographed on silica gel eluting with 10, 20, 30 and 50% ethyl acetate/iso-hexanes to yield the title compound (1.48 g, 86%).

reactant | Diethylazodicarboxylate | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | (1R*,2R*,5S*,6R*)-8-benzyl-2-[(Z)-3-hydroxypropenyl)-1-phenyl-6-phenylsulphonyl-8-azabicyclo[3.2.1]octan-2-ol | 3.7 mmol, 1.8 g | C(C1=CC=CC=C1)N1[C@@]2([C@](CC[C@H]1[C@@H](C2)S(=O)(=O)C2=CC=CC=C2)(O)\C=C/CO)C2=CC=CC=C2 | C29H31NO4S
reactant | triphenylphosphine | 4.4 mmol, 1.15 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (1R*,2R*,5S*,6R*)-8-Benzyl-2′,5′-dihydro-1-phenyl-6-phenylsulfonylspiro[8-azabicyclo[3.2.1]octane-2,2′-furan] | 1.48 g, 86% | C(C1=CC=CC=C1)N1[C@]2(C[C@H]([C@@H]1CC[C@]21OCC=C1)S(=O)(=O)C1=CC=CC=C1)C1=CC=CC=C1 | C29H29NO3S
